US05998433
b) Synthesis of N,N-dimethyl-[6-[4-(3-chlorobenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine
To a solution of 0.240 g (0.656 mmol) of 6-[4-(3-chlorobenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridine in 10 ml of acetic acid, 0.089 ml (0.984 mmol) of 50% aqueous dimethylamine and 0.080 ml (0.984 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 60 minutes. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with 5% aqueous sodium hydrogen carbonate and extracted with dichloromethane 2 times. The combined organic layer was washed with water and dried over anhydrous sodium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (chloroform/methanol=50/1) to yield the desired product.

reactant | 6-[4-(3-chlorobenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | 0.656 mmol, 0.240 g | ClC=1C=C(C(=O)C2=CC=C(C(=O)N3CC4=C(CC3)C=CO4)C=C2)C=CC1 | C21H16ClNO3
reactant | dimethylamine | 0.984 mmol, 0.089 ml | CNC | C2H7N
reactant | formaldehyde | 0.984 mmol, 0.080 ml | C=O | CH2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | N,N-dimethyl-[6-[4-(3-chlorobenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | CN(C)CC1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)C(C2=CC(=CC=C2)Cl)=O)=O)O1 | C24H23ClN2O3
